subckt sky130_fd_pr__esd_rf_diode_pd2nw_11v0_100 (c0 c1)
parameters area=-1 perim=-1.0
resd_pdiode_h_100 (c0 a1) resistor r=1.1994
d1 (a1 c1) m_sky130_fd_pr__diode_pd2nw_11v0__no_rs area=area * 1.8
ends // sky130_fd_pr__esd_rf_diode_pd2nw_11v0_100
