subckt sky130_fd_pr__esd_rf_diode_pd2nw_11v0_300 (c0 c1)
parameters area=-1 perim=-1.0
resd_pdiode_h_300 (c0 a1) resistor r=0.74299
d1 (a1 c1) m_sky130_fd_pr__diode_pd2nw_11v0__no_rs area=area * 1.73
ends // sky130_fd_pr__esd_rf_diode_pd2nw_11v0_300
